US07943645B2
Description 112. (RS)-3-[4-(4-Fluorophenyl)-1H-imidazol-2-ylmethyl]-4-{1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-piperazine-1-carboxylic acid tert-butyl ester
(RS)-4-{1-[5-(4-Fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-3-[2-(4-fluoro-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester from description 111 (0.360 g) and anhydrous ammonium acetate were heated to 140° C. under argon for 1.5 hours with stirring. After cooling, the reaction mixture was partitioned between dichloromethane and saturated potassium carbonate solution. The organic solution was washed with brine, dried (MgSO4) and evaporated. The residue was chromatographed over silica gel, eluting with 0 to 10% ethanol in ethyl acetate. The title compound was obtained as a white foam (0.125 g), mass spectrum (API+) 580 [MH+], C30H31F2N5O3S requires 579.

reactant | (RS)-4-{1-[5-(4-Fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-3-[2-(4-fluoro-phenyl)-2-oxo-ethoxycarbonylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)CC(=O)OCC(=O)C1=CC=C(C=C1)F | C30H31F2N3O6S
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | (RS)-3-[4-(4-Fluorophenyl)-1H-imidazol-2-ylmethyl]-4-{1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)CC=1NC=C(N1)C1=CC=C(C=C1)F | C30H31F2N5O3S
